Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
exertional chest pain

 
Major Surgical or Invasive Procedure:
___:
Coronary artery bypass grafting x4 with the left
internal mammary artery to left anterior descending artery
and reverse saphenous vein graft to the right acute marginal
artery, obtuse marginal artery and diagonal artery
 
History of Present Illness:
___ year old male who began experiencing chest pain with jogging 
up inclines or playing tennis several months ago that resolves 
with rest. He was sent
for a stress echo which demonstrated ischemic EKG changes as 
well
as chest pain. Echo portion was normal but deemed suboptimal 
with
multiple wall regions not visualized. He was referred for a
cardiac catheterization and was found to have three vessel
disease. He is now being referred to cardiac surgery for 
surgical
revascularization.

 
Past Medical History:
CAD
Htn
Hyperlipidemia
Diabetes Mellitus

 
Social History:
___
Family History:
Premature coronary artery disease- Mother had died
MI at age ___

 
Physical Exam:
Admit PE:
Pulse:74 Resp:12  O2 sat:97/RA
B/P  Right:159/91    Left:160/86
Height:5'7"   Weight:69.9 kg

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x]x non-tender [x] 
Extremities: Warm [x], well-perfused [x]  Edema [] _____
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: palp  Left: palp
DP           Right: palp  Left: palp
___           Right: palp  Left: palp
Radial       Right: palp  Left: palp

Carotid Bruit        Right: none   Left: none
 
Pertinent Results:
STUDIES:
Cardiac Echocardiogram:Stree Echo ___ ___
Left Ventricle - Ejection Fraction:   >= 60%   >= 55%   
Aortic Valve - Peak Velocity:   1.1 m/sec   <= 2.0 m/sec   
Mitral Valve - E Wave:   0.9 m/sec       
Mitral Valve - A Wave:   1.0 m/sec       
Mitral Valve - E/A ratio:   0.90       
Mitral Valve - E Wave deceleration time:*106 ms   140-250ms      

Conclusions   
 The patient exercised for 9 minutes 18 seconds according to a
___ protocol ___ METS) reaching a peak heart rate
of 172 bpm and a peak blood pressure of 190/60 mmHg. The test 
was
stopped because of shortness of breath and chest pain. This 
level
of exercise represents a good exercise tolerance for age. In
response to stress, the ECG showed ischemic ST changes (see
exercise report for details). There is resting hypertension.
There were normal blood pressure and heart rate responses to
stress. 
 Resting images were acquired at a heart rate of 88 bpm and a
blood pressure of 150/70 mmHg. These demonstrated normal 
regional
and global left ventricular systolic function though of note
distal inferior wall not visualized. Right ventricular free wall
motion is normal. Doppler demonstrated no aortic stenosis, 
aortic
regurgitation or significant mitral regurgitation or resting 
LVOT
gradient. 
 Echo images were acquired within 45seconds after peak stress at
heart rates of 153 - 134 bpm. These demonstrated appropriate
augmentation of all left ventricular segments. There was
augmentation of right ventricular free wall motion. 
IMPRESSION: Good functional exercise capacity. Ischemic ECG
changes in the absence of 2D echocardiographic evidence of
inducible ischemia to achieved workload. Resting hypertension.
Normal hemodynamic response to exercise.   

___: Intraop TEE:
Conclusions  
Prebypass

No spontaneous echo contrast is seen in the body of the left 
atrium or left atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. There is mild symmetric left ventricular 
hypertrophy. There is mild regional left ventricular systolic 
dysfunction with hypokinesia of the apical portion of the 
anterior septum and septum. Overall left ventricular systolic 
function is mildly depressed (LVEF= 45-50 %). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. Dr. ___ was notified in person of the results on 
___ at ___ am

Post bypass

Patient is A paced and receiving an infusion of Phenylephrine. 
Biventricular systolic function is unchanged. Aorta is intact 
post decannulation. Rest of examination is unchanged.   

LABS:
Admit:
___ 11:26AM BLOOD WBC-10.2* RBC-2.83*# Hgb-8.5*# Hct-25.7*# 
MCV-91 MCH-30.0 MCHC-33.1 RDW-11.7 RDWSD-38.5 Plt Ct-72*#
___ 11:26AM BLOOD ___ PTT-31.8 ___
___ 12:01PM BLOOD Glucose-181* UreaN-8 Creat-0.6 Na-138 
K-4.2 Cl-110* HCO3-24 AnGap-8

Discharge:

___ 07:20AM BLOOD WBC-9.8 RBC-2.66* Hgb-8.0* Hct-25.2* 
MCV-95 MCH-30.1 MCHC-31.7* RDW-12.6 RDWSD-43.4 Plt ___
___ 03:13AM BLOOD WBC-13.1* RBC-2.76* Hgb-8.4* Hct-25.5* 
MCV-92 MCH-30.4 MCHC-32.9 RDW-12.2 RDWSD-41.0 Plt ___
___ 03:13AM BLOOD ___ PTT-32.8 ___
___ 07:20AM BLOOD Glucose-88 UreaN-16 Creat-1.0 Na-138 
K-5.2* Cl-101
___ 03:13AM BLOOD Glucose-59* UreaN-20 Creat-1.0 Na-135 
K-4.3 Cl-95* HCO3-30 AnGap-14
 
Brief Hospital Course:
Mr. ___ was brought to the Operating Room on ___ 
where the patient underwent Coronary artery bypass grafting x4 
(left internal mammary artery to left anterior descending artery 
and reverse saphenous vein graft to the right acute marginal 
artery, obtuse marginal artery and diagonal artery).  Overall 
the patient tolerated the procedure well and post-operatively 
was transferred to the CVICU in stable condition for recovery 
and invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  He remained 
in the ICU for IV insulin support for hyperglycemia despite 
increase in his preop home diabetes medications.  ___ was 
consulted for assistance with management of blood glucose.  He 
also completed a course of Ciprofloxacin for fevers with +UA.  
The patient was transferred to the telemetry floor for further 
recovery.  Chest tubes and pacing wires were discontinued 
without complication.  The patient was evaluated by the physical 
therapy service for assistance with strength and mobility.  By 
the time of discharge on POD 8 the patient was ambulating 
freely, the wound was healing and pain was controlled with oral 
analgesics.  The patient was discharged home in good condition 
with appropriate follow up instructions.
 
Medications on Admission:
1. Atorvastatin 80 mg PO QPM 
2. GlipiZIDE 5 mg PO BID 
3. levemir 45 Units Bedtime
4. MetFORMIN (Glucophage) 850 mg PO QAM 
5. MetFORMIN (Glucophage) 1700 mg PO QPM 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. GlipiZIDE 5 mg PO BID 
4. levemir 45 Units Bedtime
5. MetFORMIN (Glucophage) 850 mg PO QAM 
6. MetFORMIN (Glucophage) 1700 mg PO QPM 
7. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
8. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth q3h Disp #*60 
Tablet Refills:*0
9. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
10. Metoprolol Tartrate 12.5 mg PO TID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
three times a day Disp #*50 Tablet Refills:*0
11. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*0
12. Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
13. Furosemide 40 mg PO DAILY Duration: 7 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0
14. Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*7 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
CAD
Hypertension
Hyperlipidemia
Diabetes Mellitus

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Right/Left Leg Incision - 
healing well, no erythema or drainage
Edema - trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___